### PR TITLE
[Merged by Bors] - chore: tidy various files

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Review by grunweg — COMMENTED** [review]
Thanks for the PR. Can you fix the merge conflict, please? Then I'll review the last five files :-)

**Comment by Ruben-VandeVelde** [comment]
Done

File: Mathlib/MeasureTheory/Function/UnifTight.lean [hunk 1]
```diff
@@ -214,7 +214,8 @@ and `tendstoInMeasure_of_tendsto_eLpNorm`. -/
 
 /-- Intermediate lemma for `unifTight_of_tendsto_Lp`. -/
 private theorem unifTight_of_tendsto_Lp_zero (hp' : p ≠ ∞) (hf : ∀ n, MemLp (f n) p μ)
-    (hf_tendsto : Tendsto (fun n ↦ eLpNorm (f n) p μ) atTop (𝓝 0)) : UnifTight f p μ := fun ε hε ↦by
+    (hf_tendsto : Tendsto (fun n ↦ eLpNorm (f n) p μ) atTop (𝓝 0)) :
+    UnifTight f p μ := fun ε hε ↦ by
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Function/UnifTight.lean:218]: How about making these lines
```suggestion
    (hf_tendsto : Tendsto (fun n ↦ eLpNorm (f n) p μ) atTop (𝓝 0)) : UnifTight f p μ := by
  intro ε hε
```
instead?

File: Mathlib/Data/Matroid/Loop.lean [hunk 2]
```diff
@@ -239,9 +239,9 @@ lemma comap_isLoop_iff {M : Matroid β} {f : α → β} : (M.comap f).IsLoop e 
 lemma loopyOn_isLoop_iff {E : Set α} : (loopyOn E).IsLoop e ↔ e ∈ E := by
   simp [isLoop_iff, loops]
 
-lemma eq_loopyOn_iff_loops {E : Set α} : M = loopyOn E ↔ M.loops = E ∧ M.E = E :=
-  ⟨fun h ↦ by rw [h, loops]; simp, fun ⟨h,h'⟩ ↦
-    by rw [← h', ← closure_empty_eq_ground_iff, ← loops, h, h']⟩
+lemma eq_loopyOn_iff_loops {E : Set α} : M = loopyOn E ↔ M.loops = E ∧ M.E = E where
```
Comment (grunweg) [inline Mathlib/Data/Matroid/Loop.lean:242]: I'm neutral on this change (and happy to see a second opinion).

**Review by grunweg — COMMENTED** [review]
Thanks!
maintainer merge

File: Mathlib/Data/Matroid/Loop.lean (hunk 2 above)
Comment (jcommelin) [reply Mathlib/Data/Matroid/Loop.lean:242]: fwiw I like the change.

File: Mathlib/MeasureTheory/Function/UnifTight.lean (hunk 1 above)
Comment (jcommelin) [reply Mathlib/MeasureTheory/Function/UnifTight.lean:218]: that suggestion lgtm

**Review by jcommelin — COMMENTED** [review]
Thanks again!

bors d+

**Comment by Ruben-VandeVelde** [comment]
bors merge
